US08877934B2
Step B: N2-(2,6-Dimethyl-4-pyridyl)propane-1,2-diamine hydrochloride
To tert-butyl 2-(2,6-dimethylpyridin-4-ylamino)propylcarbamate (147 mg, 0.526 mmol) dissolved in 1,4-dioxane (1 ml) a 4N solution of HCl in dioxane (2 ml, 8.00 mmol) was added. Within a few minutes a precipitate started to form. The solvent was removed in a stream of nitrogen, to the residue was added diethylether and the mixture was allowed to stand at room temperature overnight. The solvent was filtered off, the residue was dried under reduced pressure to yield 135 mg of an off-white solid MS (ESI) m/z=180.0.

reactant | tert-butyl 2-(2,6-dimethylpyridin-4-ylamino)propylcarbamate | 0.526 mmol, 147 mg | CC1=NC(=CC(=C1)NC(CNC(OC(C)(C)C)=O)C)C | C15H25N3O2
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.00 mmol, 2 ml | O1CCOCC1 | C4H8O2
product | N2-(2,6-Dimethyl-4-pyridyl)propane-1,2-diamine hydrochloride | 135 mg | Cl.CC1=NC(=CC(=C1)NC(CN)C)C | InChI=1S/C10H17N3.ClH/c1-7-4-10(5-8(2)12-7)13-9(3)6-11;/h4-5,9H,6,11H2,1-3H3,(H,12,13);1H
